US07524831B2
ANA245;
5-Amino-3-beta-D-ribofuranosylthiazolo(4,5-d)pyrimidine-2,7(3H,6H)-dione monohydrate; Thiazolo(4,5-d)pyrimidine-2,7(3H,4H)-dione, 5-amino-3-beta-D-ribofuranosyl-, monohydrate) is administered in association with a compound of the invention (e.g., represented by a formula selected from I-XXIII).

reactant | 5-Amino-3-beta-D-ribofuranosylthiazolo(4,5-d)pyrimidine-2,7(3H,6H)-dione monohydrate | O.NC=1NC(C2=C(N1)N(C(S2)=O)[C@H]2[C@H](O)[C@H](O)[C@H](O2)CO)=O
reactant | Thiazolo(4,5-d)pyrimidine-2,7(3H,4H)-dione | S1C(NC=2NC=NC(C21)=O)=O | C5H3N3O2S
product | ANA245 | C([C@@H]1[C@H]([C@H]([C@@H](O1)N2C3=C(C(=O)N=C(N3)N)SC2=O)O)O)O | C10H12N4O6S
